US07618973B2
5-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid isopropylamide
As described for example 2b, 5-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid (100 mg, 0.32 mmol), was converted, using isopropylamine instead of aminomethylcyclopropane, to the title compound (SiO2, heptane:ethyl acetate=90:10 to 60:40, 37 mg, 33%) which was obtained as an off-white solid. MS: m/e=353.2 [M+H]+.

reactant | 5-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC=1N=CC(=NC1)C(=O)O | C16H13N3O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 5-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid isopropylamide | 37 mg, 33% | C(C)(C)NC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C19H20N4O3
